US04942163
Preparation of 7-Chloro-3-(1-naphthalenyl)-1-isoquinolineamine
A 500-mL, three-necked, round-bottomed flask equipped with a dry ice-acetone cooled reflux condenser, addition funnel, and a gas inlet was charged with liquid ammonia (150 mL). Iron (III) nitrate nonahydrate (spatula end) was added in one portion as a solid, and then potassium metal (5.16 g, 132.0 mmol) was added cautiously in small portions. A solution of 5-chloro-2-methylbenzonitrile (10.00 g, 65.96 mmol) in THF (30 mL) was added dropwise over 5 minutes, the reaction mixture was stirred for 5 minutes, a solution of 1-cyanonaphthalene (15.16 g, 98.97 mmol) in THF was added dropwise over 5 minutes, and the reaction mixture was allowed to stir overnight as the liquid ammonia gradually evaporated. The crude reaction mixture was cautiously poured into saturated aqueous NH4Cl, and the aqueous phase was extracted with methylene chloride. The combined organic extracts were dried and concentrated. The residue was purified by flash chromatography with 2:1 hexane-ethyl acetate, and the crude product was recrystallized from 2:1 hexane-ethyl acetate to afford the title compound (2.88 g, 9.45 mmol, 14% yield) as yellow crystals: mp 180°-181°; IR(CHCl3) 3513, 3409 cm-1 ; MS m/e 305 (M+ +H NMR(CDCl3) δ 8.00-8.17(m,1H), 7.83-8.00(m,2H), 7.80(s,1H), 7.33-7.79(m,6H), 7.25(s,1H), 5.35(s,2H). Anal. Calcd for C19H13ClN2 : C,74.88; H,4.30; Cl,11.83; N,9.19. Found: C,74.77; H,4.09; Cl,11.87; N,8.81.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | ammonia | 150 mL | N | H3N
reactant | potassium | 132.0 mmol, 5.16 g | [K] | K
reactant | 5-chloro-2-methylbenzonitrile | 65.96 mmol, 10.00 g | ClC=1C=CC(=C(C#N)C1)C | C8H6ClN
reactant | 1-cyanonaphthalene | 98.97 mmol, 15.16 g | C(#N)C1=CC=CC2=CC=CC=C12 | C11H7N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Iron (III) nitrate nonahydrate | O.O.O.O.O.O.O.O.O.[N+](=O)([O-])[O-].[Fe+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | 7-Chloro-3-(1-naphthalenyl)-1-isoquinolineamine | 9.45 mmol, 2.88 g, 14% yield | ClC1=CC=C2C=C(N=C(C2=C1)N)C1=CC=CC2=CC=CC=C12 | C19H13ClN2
